US06576632B1
2-Benzyl-3,4-dihydro-2H-naphthalen-1-one oxime:
To a solution of 2-benzyl-1-tetralone (prepared according to Org. Prep. Proc. Inter., 2, 37 (1970)), (58.95 g, 0.250 mol) and 95% ethanol (500 mL) was added sodium acetate (45.1 g, 0.55 mol) and hydroxylamine hydrochloride (20.8 g, 0.30 mol). The reaction was heated to reflux overnight and then allowed to cool to room temperature and concentrated under vacuum. The residue was partitioned between water (300 mL) and ethryl acetate (500 mL), the organic layer was then sequentially washed with water (300 mL), and brine (500 mL). This was then dried over sodium sulfate and concentrated to give 61.1 g of an orange solid. Recrystalization from ethyl acetate/hexanes gave the title compound as a white solid, m.p. 123-124° C.

reactant | 2-benzyl-1-tetralone | 0.250 mol, 58.95 g | C(C1=CC=CC=C1)C1C(C2=CC=CC=C2CC1)=O | C17H16O
reactant | sodium acetate | 0.55 mol, 45.1 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.30 mol, 20.8 g | Cl.NO
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-Benzyl-3,4-dihydro-2H-naphthalen-1-one oxime | 61.1 g | C(C1=CC=CC=C1)C1C(C2=CC=CC=C2CC1)=NO | C17H17NO
